US04017522
N-methyl-N-(2-oleoyloxyethyl)-p-toluamide
N-methyl-N-(2-oleoyloxyethyl)-p-toluamide was prepared by the procedure of example 1 from 19 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)-p-toluamide and 30 gms. (0.1 mole) of oleoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)-p-toluamide | 0.1 mole | CN(C(=O)C1=CC=C(C=C1)C)CCO | C11H15NO2
reactant | oleoyl chloride | 0.1 mole | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
product | N-methyl-N-(2-oleoyloxyethyl)-p-toluamide | CN(C(=O)C1=CC=C(C=C1)C)CCOC(CCCCCCC\C=C/CCCCCCCC)=O | C29H47NO3
